US04898874
3-(4-Bromophenyl)-7-methyl-2,1-benzisoxazole
A solution of 130 ml of 30% hydrogen peroxide in 350 ml of glacial acetic acid was heated on a steam bath for 1 hr. To the cooled solution was added a solution of 31.0 g (0.11 mole) of (2-amino-3-methylphenyl)(4-bromophenyl)methanone in 400 ml of glacial acetic acid. The reaction mixture was heated to 95° C. to dissolve all solids, then heated at 65°-70° C. for 4 hr and let stand at ambient temperature overnight.

reactant | hydrogen peroxide | 130 ml | OO | H2O2
reactant | (2-amino-3-methylphenyl)(4-bromophenyl)methanone | 0.11 mole, 31.0 g | NC1=C(C=CC=C1C)C(=O)C1=CC=C(C=C1)Br | C14H12BrNO
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Bromophenyl)-7-methyl-2,1-benzisoxazole | BrC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2C | C14H10BrNO
